US08232294B2
Step 1) (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate
To a mixture of (R)—N-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)-phenyl-1-(2-hydrox-ylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (1.08 g, 2.0 mmol), N,N-dimethylglycine (0.516 g, 5 mmol Alfa Aesar), HATU (1.902 g. 5 mmol) and DMAP (62.5 mg, 0.5 mmol, Aladdin) was added TEA (1.012 g, 10 mmol) in DMF (12.5 mL) under nitrogen atmosphere at 0° C. The reaction was stirred at 0° C. for 2 hrs, and then warmed up to room temperature and continued to stir overnight. The reaction was diluted with 100 mL of CH2Cl2. The resulted solution was washed with 0.1 N HCl (10 mL×2), saturated NaHCO3 (20 mL×2) and followed by water (20 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc/MeOH=2/1) to give the title compound as a yellow solid (1.1367 g, 84%).

reactant | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)-phenyl-1-(2-hydrox-ylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 2.0 mmol, 1.08 g | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)NC(=O)C=1C(N(N(C1C)CC(C)O)C1=CC=CC=C1)=O | C30H27FN4O5
reactant | N,N-dimethylglycine | 5 mmol, 0.516 g | CN(CC(=O)O)C | C4H9NO2
reactant | HATU | 5 mmol, 1.902 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | DMAP | 0.5 mmol, 62.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate | 1.1367 g, 84% | CN(CC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C)C | C34H34FN5O6
